US07884094B2
2-(4-Methoxy-3-nitro-phenyl)-1-(3,4,5-trimethoxy-phenyl)-ethanone (2)
A round-bottom flask equipped with thermometer, condenser and gas inlet was purged and maintained under nitrogen and charged with hydroxy-(3,4,5-trimethoxy-phenyl)-methyl]-phosphonic acid dimethyl ester (10 g, 32.6 mmol), 3,4-dihydro-2H-pyran (3.57 g, 42.4 mmol), toluene (100 mL) and p-toluenesolfonic acid hydrate (62.1 mg, 0.01 eq). Resulted solution was stirred at 55° C. for 1.5 hours. TLC (EtOAc) showed full conversion of starting material into a less polar compound. Reaction mixture was cooled to −10° C. and a solution of sodium bis(trimethylsilyl)amide in THF (1 M, 33.3 mL) was added drop-wise, followed by a solution of 4-methoxy-3-nitrobenzaldehyde (5.91 g, 32.6 mmol) in THF (20 mL). Reaction mixture was stirred at 0° C. for 1 hour before allowed to warm to room temperature. TLC (Hx:EtOAc, 2:1) showed formation of Z/E isomers of 2-[2-(4-methoxy-3-nitro-phenyl)-1-(3,4,5-trimethoxy-phenyl)-vinyloxy]-tetrahydro-pyran and traces of starting materials remaining. Reaction was quenched with water (140 mL), diluted with EtOAc (60 mL) and transferred into separatory funnel. Organic layer was separated, washed with water (2×50 mL), brine, and concentrated. A residue was dissolved in methanol (100 mL) with energetic mechanical stirring, and 1M aqueous solution of HCl (10 mL) was added. Precipitation of product started soon, and a resulted suspension was stirred for 1 hour. Solid was filtered out, washed with methanol (50 mL), then with water (3×30 mL) and dried on filter followed by vacuum-drying at 60° C. until constant weight. Crude deoxybenzoin 2, 6.81 g (58%) showed LC purity of >97% and was used in the next step without further purification.

reactant | phosphonic acid dimethyl ester | 32.6 mmol, 10 g | COP(OC)=O | C2H7O3P
reactant | 3,4-dihydro-2H-pyran | 42.4 mmol, 3.57 g | O1CCCC=C1 | C5H8O
reactant | sodium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 4-methoxy-3-nitrobenzaldehyde | 32.6 mmol, 5.91 g | COC1=C(C=C(C=O)C=C1)[N+](=O)[O-] | C8H7NO4
reactant | 2-[2-(4-methoxy-3-nitro-phenyl)-1-(3,4,5-trimethoxy-phenyl)-vinyloxy]-tetrahydro-pyran | COC1=C(C=C(C=C1)C=C(OC1OCCCC1)C1=CC(=C(C(=C1)OC)OC)OC)[N+](=O)[O-] | C23H27NO8
solvent | THF | 1 M, 33.3 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(4-Methoxy-3-nitro-phenyl)-1-(3,4,5-trimethoxy-phenyl)-ethanone | COC1=C(C=C(C=C1)CC(=O)C1=CC(=C(C(=C1)OC)OC)OC)[N+](=O)[O-] | C18H19NO7
